US06620811B2
2-(2-Methoxy-ethylamino)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and 2-methoxyethylamine. ES-MS m/e (%): 444 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | 2-(2-Methoxy-ethylamino)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | COCCNC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C21H25N5O4S
